US08957102B2
(Step 3) 4-chloro-2-phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridine
4-Chloro-2-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridine (329 mg, 0.805 mmol) and phenylboronic acid (118 mg, 0.966 mmol) were dissolved in dioxane and then Pd(PPh3)4 (46 mg, 0.04 mmol) was added. After adding 1 M potassium carbonate aqueous solution (1.61 mL), the resulting reaction mixture was stirred at 80° C. for 2 hours. The reaction mixture was extracted with dichloromethane and water. The organic layer was washed with sodium chloride aqueous solution, dried with magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=9:1) to give the target compound as a yellow oil (182 mg, 0.51 mmol, 63% yield).

reactant | 4-Chloro-2-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridine | 0.805 mmol, 329 mg | ClC1=C2C(=NC=C1)N(C(=C2)I)COCC[Si](C)(C)C | C13H18ClIN2OSi
reactant | phenylboronic acid | 0.966 mmol, 118 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 1 M, 1.61 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.04 mmol, 46 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-2-phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridine | 0.51 mmol, 182 mg, 63% yield | ClC1=C2C(=NC=C1)N(C(=C2)C2=CC=CC=C2)COCC[Si](C)(C)C | C19H23ClN2OSi
